US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(3,4-dimethoxyphenyloxy)-propyl]-methylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane and N-methyl-3-(3,4-dimethoxyphenyloxy)-propylamine analogously to Example 6.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-3-(3,4-dimethoxyphenyloxy)-propylamine | CNCCCOC1=CC(=C(C=C1)OC)OC | C12H19NO3
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(3,4-dimethoxyphenyloxy)-propyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCCOC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | C27H38N2O6
